US04853381
(Z)-N-[4-[3-[[6-[[2-(3,5-Dihydroxyphenyl)-2-hydroxyethyl]amino]hexyl]oxy]-1-propenyl]phenyl]methanesulphonamide
(Z)-N-[4-[3-[(6-Bromohexyl)oxy]-1-propenyl]phenyl]methanesulphonamide (1.56 g) was added portionwise over 10 min to a stirred solution of 5-(2-amino-1-hydroxyethyl)-1,3-benzenediol (1.01 g) and DEA (1.55 g) in dry DMF (20 ml) heated to 80° under nitrogen. When the addition was complete, the mixture was stirred at 80° for 2 h, cooled and evaporated onto `flash` silica. The impregnated material was purified by FCC eluting with System C (39:10:1) to give the title compound as a pale brown powder which was dried in vacuo at 50° for 6 h (0.75 g) m.p. 79°-82°.

reactant | (Z)-N-[4-[3-[(6-Bromohexyl)oxy]-1-propenyl]phenyl]methanesulphonamide | 1.56 g | BrCCCCCCOC\C=C/C1=CC=C(C=C1)NS(=O)(=O)C | C16H24BrNO3S
reactant | 5-(2-amino-1-hydroxyethyl)-1,3-benzenediol | 1.01 g | NCC(O)C=1C=C(C=C(C1)O)O | C8H11NO3
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | (Z)-N-[4-[3-[[6-[[2-(3,5-Dihydroxyphenyl)-2-hydroxyethyl]amino]hexyl]oxy]-1-propenyl]phenyl]methanesulphonamide | OC=1C=C(C=C(C1)O)C(CNCCCCCCOC\C=C/C1=CC=C(C=C1)NS(=O)(=O)C)O | C24H34N2O6S
